US07166746B2
A solution of 17.89 g (44.0 mmol) 4-(tert-butyl-diphenyl-silanyloxy)-3-methoxy-phenyl-boronic acid, 6.89 g (31.45 mmol) 2-iodoaniline, 17.4 g (125.8 mmol) K2CO3 and 425 mg (6 mol %) Pd(OAc)2 in 140 ml THF and 80 ml H2O is heated to reflux for 20 hours. After cooling the mixture is filtrated over cellite and concentrated. The residue is dissolved in ethyl acetate and washed with water. After drying (MgSO4) and evaporating the solvent, the residue is subjected to flash-chromatography (ethyl acetate/hexane 1:9). Yield: 4′-(tert-Butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-ylamine is isolated as a colorless oil.

reactant | 4-(tert-butyl-diphenyl-silanyloxy)-3-methoxy-phenyl-boronic acid | 44.0 mmol, 17.89 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)B(O)O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H27BO4Si
reactant | 2-iodoaniline | 31.45 mmol, 6.89 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | K2CO3 | 125.8 mmol, 17.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | H2O | 80 ml | O | H2O
catalyst | Pd(OAc)2 | 425 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4′-(tert-Butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-ylamine | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C1=C(C=CC=C1)N)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31NO2Si
